US04659708
A. 4-Cyclohexyl-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazine-hexanamide
A mixture of 3.7 g (0.01 mole) of 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide, 3.4 g (0.0105 mole) of 1-cyclo-hexylpiperazine, dihydrobromide, and 4.2 ml (0.03 mole) of triethylamine in 100 ml of benzene was heated under reflux for 40 hr, allowed to cool, filtered and concentrated. The residue was chromatographed over 150 g of silica gel first with dichloromethane and then with 500 ml each of the following solutions of methanol in dichloromethane: 2%, 4%, 6%, 10% and 15%. The fractions containing the product [Rf(silica--75 ethyl acetate:25 methanol:1 triethylamine)=0.6] were concentrated to provide 3.4 g (75%) of clean material and 0.8 g (18%) which was slightly contaminated according to TLC. The contaminated material was combined with 0.8 g of the purer material and recrystallized first from 2-propanol and then from 2-propanol-water to afford 0.7 g (44% recovery) of analytical material, mp 109°-110°.

reactant | 6-bromo-N-(6-methoxy-4-methyl-8-quinolinyl)hexanamide | 0.01 mole, 3.7 g | BrCCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C17H21BrN2O2
reactant | 1-cyclo-hexylpiperazine, dihydrobromide | 0.0105 mole, 3.4 g | Br.Br.C1(CCCCC1)N1CCNCC1
reactant | triethylamine | 0.03 mole, 4.2 ml | C(C)N(CC)CC | C6H15N
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 4-Cyclohexyl-N-(6-methoxy-4-methyl-8-quinolinyl)-1-piperazine-hexanamide | 3.4 g, 75% | C1(CCCCC1)N1CCN(CC1)CCCCCC(=O)NC=1C=C(C=C2C(=CC=NC12)C)OC | C27H40N4O2
